US07750003B2
3-Cyclopropyl-1-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-[2-[(4-methyl-1,3-thiazol-2-yl)sulfonyl]propan-2-yl]pyrimidin-2-yl]phenyl]urea
The following compounds were made in an analogous fashion from either phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-[2-[(4-methyl-1,3-thiazol-2-yl)sulfonyl]propan-2-yl]pyrimidin-2-yl]phenyl]carbamate or phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-[(4-methyl-1,3-thiazol-2-yl)sulfonylmethyl]pyrimidin-2-yl]phenyl]carbamate and the appropriate amine.

reactant | phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-[2-[(4-methyl-1,3-thiazol-2-yl)sulfonyl]propan-2-yl]pyrimidin-2-yl]phenyl]carbamate | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C=1SC=C(N1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C29H31N5O5S2
reactant | phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-[(4-methyl-1,3-thiazol-2-yl)sulfonylmethyl]pyrimidin-2-yl]phenyl]carbamate | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C=1SC=C(N1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C27H27N5O5S2
product | 3-Cyclopropyl-1-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-[2-[(4-methyl-1,3-thiazol-2-yl)sulfonyl]propan-2-yl]pyrimidin-2-yl]phenyl]urea | C1(CC1)NC(NC1=CC=C(C=C1)C1=NC(=CC(=N1)N1[C@H](COCC1)C)C(C)(C)S(=O)(=O)C=1SC=C(N1)C)=O | C26H32N6O4S2
